US04835099
C. 1-Hydroxy-5,5-difluoro-8,8-dimethyl-4-nonanone
A 10 mL one neck round bottom flask, fitted with argon inlet, magnetic stirrer, and reflux condenser was charged with 1.0 mL glacial acetic acid, 4 drops of concentrated HCl and 200 mg (0.81 mM) of 2,3,4,5-tetrahydro-2-oxo-3-(5,5-dimethyl-2,2-difluoro-1-oxohexyl)furan. The reaction mixture was heated at 110 C. overnight under a blanket of argon. The reaction was extracted with ethyl ether, and the ether was cross washed with water, dried (anhydrous MgSO4), and solvent removed under reduced pressure. The residue was chromatographed on a 10×60 mm silica gel column using a 9:1 hexane:ethyl acetate mixture to give a clear oil. nmr(CDCl3)--α0.95(s, 9H), 1.45(t, 2H), 2.00(m, 6H), 3.12(bs, 1H), 4.15(m, 1H)

reactant | 2,3,4,5-tetrahydro-2-oxo-3-(5,5-dimethyl-2,2-difluoro-1-oxohexyl)furan | 0.81 mM, 200 mg | O=C1OCCC1C(C(CCC(C)(C)C)(F)F)=O | C12H18F2O3
catalyst | HCl | 4 drops | Cl | ClH
solvent | acetic acid | 1.0 mL | C(C)(=O)O | C2H4O2
product | 1-Hydroxy-5,5-difluoro-8,8-dimethyl-4-nonanone | OCCCC(C(CCC(C)(C)C)(F)F)=O | C11H20F2O2
